US04152442
(b) N-Phenylmethyl-N-(5-Methyl-1,3,4-thiadiazol-2-yl)-benzene acetamide.
N-(5-Methyl-1,3,4-thiadiazol-2-yl)-benzylamine (15 g, 0.073 mole) in pyridine (200 ml) was refluxed with phenylacetyl chloride for 6 hours. The pyridine was removed under educed pressure and the residue treated with water and extracted with ether. The ethereal solution was dried, filtered and evaporated to dryness and the residue recrystallised from ethanol to give the title compound, m.p. 128° C.

reactant | N-(5-Methyl-1,3,4-thiadiazol-2-yl)-benzylamine | 0.073 mole, 15 g | CC1=NN=C(S1)NCC1=CC=CC=C1 | C10H11N3S
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | N-Phenylmethyl-N-(5-Methyl-1,3,4-thiadiazol-2-yl)-benzene acetamide | C1(=CC=CC=C1)CN(C(CC1=CC=CC=C1)=O)C=1SC(=NN1)C | C18H17N3OS
